US08877758B2
13.1 4-piperazin-1-yl-pyridazine (V-4)
9.3 g of 3,6-dichloro-4-piperazin-1-yl-pyridazine (see 10.2) and 6.5 g sodium acetate are suspended in 100 ml of methanol and hydrogenated with 1 g Pd/C 10% and ambient temperature. The catalyst is suction filtered and the filtrate evaporated to dryness. The product is extracted with chloroform, washed with sodium hydroxide solution and precipitated as the hydrochloride with an ethereal HCl solution. 8.6 g of (V-4) are obtained. M.p>300° C.

reactant | 3,6-dichloro-4-piperazin-1-yl-pyridazine | 9.3 g | ClC=1N=NC(=CC1N1CCNCC1)Cl | C8H10Cl2N4
reactant | sodium acetate | 6.5 g | C(C)(=O)[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 4-piperazin-1-yl-pyridazine | N1(CCNCC1)C1=CN=NC=C1 | C8H12N4
